US06455550B1
Preparation of 1-[4-(Methylthio)butyl]cyclopentane Carboxylic Acid Methyl Ester (29514-112)
To a solution of 1-(4-bromobutyl)cyclopentane carboxylic acid methyl ester (38 mmol, 10 g) in DMF (100 mL) was added sodium thiomethoxide (72.6 mmol, 5.09 g). After addition of sodium thiomethoxide, the reaction was exothermic and the mixture became a light brown cloudy solution. The mixture was stirred for 15 h at room temperature and was poured into water (200 mL). The organic compound was extracted with ether (2×150 mL). The combined extracts were washed with brine (150 mL) and dried over anhydrous magnesium sulfate. After filtration of the drying agent, the solution was concentrated under vacuum and the resulting residue was purified by silica gel column chromatography to afford 4.43 g (51%) of a colorless oil. LR MS (C12H22O2S): 230 (M+).

reactant | 1-(4-bromobutyl)cyclopentane carboxylic acid methyl ester | 38 mmol, 10 g | COC(=O)C1(CCCC1)CCCCBr | C11H19BrO2
reactant | sodium thiomethoxide | 72.6 mmol, 5.09 g | C[S-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-[4-(Methylthio)butyl]cyclopentane Carboxylic Acid Methyl Ester | 4.43 g, 51% | COC(=O)C1(CCCC1)CCCCSC | C12H22O2S
